US05132361
The procedure of Example 1 was repeated, employing 21 grams (100 mmol.) of 4-hydroxymethyl-2-methoxy-2-phenyl-1,3-dioxolane, 25.3 grams (250 mmol.) of triethylamine, 9.5 grams (105 mmol.) of acryloyl chloride and 150 ml. of methylene chloride. The crude product was purified by column chromatography over basic alumina, using 15% (by volume) ethyl acetate in hexane as an eluant, to yield the desired 4-acryloyloxymethyl-2-methoxy-2-phenyl-l,3-dioxolane.

reactant | 4-hydroxymethyl-2-methoxy-2-phenyl-1,3-dioxolane | 100 mmol, 21 grams | OCC1OC(OC1)(C1=CC=CC=C1)OC | C11H14O4
reactant | triethylamine | 250 mmol, 25.3 grams | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 105 mmol, 9.5 grams | C(C=C)(=O)Cl | C3H3ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-acryloyloxymethyl-2-methoxy-2-phenyl-l,3-dioxolane | C(C=C)(=O)OCC1OC(OC1)(C1=CC=CC=C1)OC | C14H16O5
